US08044041B2
A solution of (4-chloro-3′-hydroxy-biphenyl-3-yl)-carbamic acid tert-butyl ester (1.8 g, 5.64 mmol) was dissolved in a solution of HCl in i-PrOH (5-6M, 20 mL). The resulting solution was stirred at RT for 6 hrs then concentrated to provided 3′-amino-4′-chloro-biphenyl-3-ol hydrochloride.

reactant | (4-chloro-3′-hydroxy-biphenyl-3-yl)-carbamic acid tert-butyl ester | 5.64 mmol, 1.8 g | C(C)(C)(C)OC(NC=1C=C(C=CC1Cl)C1=CC(=CC=C1)O)=O | C17H18ClNO3
solvent | HCl | Cl | ClH
solvent | i-PrOH | 5-6M, 20 mL | CC(C)O | C3H8O
product | 3′-amino-4′-chloro-biphenyl-3-ol hydrochloride | Cl.NC=1C=C(C=CC1Cl)C1=CC(=CC=C1)O | InChI=1S/C12H10ClNO.ClH/c13-11-5-4-9(7-12(11)14)8-2-1-3-10(15)6-8;/h1-7,15H,14H2;1H
